US09108965B2
Step A1b: Preparation of methyl 3,5-dichlorobenzeneacetate
To methyl 3,5-dichlorobenzeneethanimidate hydrochloride (1:1) (i.e. the product from Step A1a) (50 g, 0.107 mol) was added to a mixture of toluene (167 mL) and water (167 mL). After 60 min the organic phase was removed, dried (MgSO4), and evaporated to give the title compound as an oil (39 g, 91%).

reactant | methyl 3,5-dichlorobenzeneethanimidate hydrochloride | Cl.ClC=1C=C(C=C(C1)Cl)CC(OC)=N
reactant | toluene | 167 mL | C1(=CC=CC=C1)C | C7H8
reactant | water | 167 mL | O | H2O
product | methyl 3,5-dichlorobenzeneacetate | 39 g, 91% | ClC=1C=C(C=C(C1)Cl)CC(=O)OC | C9H8Cl2O2
